US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-ethoxyaniline were reacted to yield N2,N4-bis(3-ethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.96 (1H, d, J=4.8 Hz), 7.22 (m, 6H), 7.07 (t, 1H, J=1.8 Hz), 6.95 (dt, 1H, J=1.2 and 7.2 Hz), 6.77 (m, 2H), 3.88 (q, 4H, J=6.3 Hz), 1.33 (two t, 6H, J=6.3 Hz); 19F NMR (CDCl3): −46175; LCMS: ret. time: 26.86 min.; purity: 97%; MS (m/e): 369 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-ethoxyaniline | C(C)OC=1C=C(N)C=CC1 | C8H11NO
product | N2,N4-bis(3-ethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)OCC)F | C20H21FN4O2
